US05543409
2-Propylamino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide and isobutyl chloroformate were treated in the same manner as in Example 51 to obtain 2-(N-propyl-N-isobutoxycarbonylamino)-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | 2-Propylamino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide | C(CC)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O.Br
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | 2-(N-propyl-N-isobutoxycarbonylamino)-5-[pyridazin-3(2H)-on-6-yl]indane | C(CC)N(C(=O)OCC(C)C)C1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C21H27N3O3
